US07977358B2
C] 5-(3-benzofuran-2-yl-phenyl)-2-methyl-2H-pyrazole-3-carboxylic acid
A suspension of 0.90 g (2.71 mmol) of 5-(3-benzofuran-2-yl-phenyl)-2-methyl-2H-pyrazole-3-carboxylic acid methyl ester (6′A) in 8.50 ml of DMSO was treated at RT with 1.35 ml (5.42 mmol) of aqueous 1N NaOH. After 2 h, reaction was diluted with chilled water and extracted 1× with Et2O. The water phase was acidified with aqueous 10% KHSO4 and extracted with Et2O (2×). These organic phases were washed with aqueous 10% NaCl, dried (Na2SO4) and evaporated to give 0.84 g (97%) of the title compound as white powder. MS: 317.1 (M−H−).

reactant | 5-(3-benzofuran-2-yl-phenyl)-2-methyl-2H-pyrazole-3-carboxylic acid methyl ester | 2.71 mmol, 0.90 g | COC(=O)C=1N(N=C(C1)C1=C(C=CC=C1)C1=CC2=C(O1)C=CC=C2)C | C20H16N2O3
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMSO | 8.50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-(3-benzofuran-2-yl-phenyl)-2-methyl-2H-pyrazole-3-carboxylic acid | 0.84 g, 97% | O1C(=CC2=C1C=CC=C2)C2=C(C=CC=C2)C=2C=C(N(N2)C)C(=O)O | C19H14N2O3
